US08609653B2
2-(tert-butoxy)-2-(4-(chroman-6-yl)-1-(2-fluorobenzyl)-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)acetic acid
The title compound was prepared in a manner similar to that described in Example 27, Step H from methyl 2-(tert-butoxy)-2-(4-(chroman-6-yl)-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)acetate and 2-fluorobenzyl bromide. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 7.50-7.42 (m, 1 H), 7.28-7.17 (m, 3 H), 7.15-7.06 (m, 3 H), 6.93 (dd, J=5.1, 8.4 Hz, 1 H), 6.27 (dd, J=3.5, 11.7 Hz, 1 H), 5.67-5.51 (m, 3 H), 4.32-4.25 (m, 2 H), 2.98-2.81 (m, 2 H), 2.76 (s, 3 H), 2.13-2.06 (m, 2 H), 1.02-0.91 (s, 9 H); LC/MS (m/z) ES+=503.51 (M+1).

reactant | methyl 2-(tert-butoxy)-2-(4-(chroman-6-yl)-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)acetate | C(C)(C)(C)OC(C(=O)OC)C=1C(=C2C(=NC1C)NC=C2)C=2C=C1CCCOC1=CC2 | C24H28N2O4
reactant | 2-fluorobenzyl bromide | FC1=C(CBr)C=CC=C1 | C7H6BrF
product | 2-(tert-butoxy)-2-(4-(chroman-6-yl)-1-(2-fluorobenzyl)-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)acetic acid | C(C)(C)(C)OC(C(=O)O)C=1C(=C2C(=NC1C)N(C=C2)CC2=C(C=CC=C2)F)C=2C=C1CCCOC1=CC2 | C30H31FN2O4
